US09303023B2
N-(1-(2-Hydroxyethyl)-3,5-dimethyl-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide
To a solution of 5-(m-tolyl)oxazole-4-carboxylic acid (550 mg, 2.71 mmol) in DCM (15 mL), TBTU (1.303 g, 4.06 mmol) and DIPEA (1.39 mL, 8.12 mmol) was added. After stirring for 40 min at rt, 2-(4-amino-3,5-dimethyl-1H-pyrazol-1-yl)ethanol (420 mg, 2.71 mmol) dissolved in DCM (5 mL) was added to the solution and the resulting mixture was stirred at rt for 1 h. The reaction mixture was diluted with DCM and water, the organic layer was separated and the aq. layer was extracted with DCM (2×). The combined org. layers were washed with brine, dried (MgSO4), filtered and the solvent was removed under reduced pressure. Purification by FC (DCM/MeOH 92:8) yielded the title compound as a white solid. LC-MS conditions A: tR=0.70 min, [M+H]+=341.46.

reactant | 5-(m-tolyl)oxazole-4-carboxylic acid | 2.71 mmol, 550 mg | C1(=CC(=CC=C1)C1=C(N=CO1)C(=O)O)C | C11H9NO3
reactant | TBTU | 4.06 mmol, 1.303 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 8.12 mmol, 1.39 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(4-amino-3,5-dimethyl-1H-pyrazol-1-yl)ethanol | 2.71 mmol, 420 mg | NC=1C(=NN(C1C)CCO)C | C7H13N3O
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-(1-(2-Hydroxyethyl)-3,5-dimethyl-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide | OCCN1N=C(C(=C1C)NC(=O)C=1N=COC1C=1C=C(C=CC1)C)C | C18H20N4O3
